US06458781B1
N-[4,4-Bis-(4-fluoro-phenyl)-butyl]-2-(isobutyl-methyl-amino)-acetamide
N-[4,4-Bis-(4-fluoro-phenyl)-butyl]-2-methylamino-acetamide (157 mg, 0.47 mmol) was dissolved in CH2Cl2 (5 mL), treated with isobutyraldehyde (43 mL, 0.47 mmol), stirred for 30 minutes, then cooled to 0° C., treated with NaBH(OAc)3 (150 mg, 0.71 mmol), and stirred overnight at room temperature. The reaction was diluted with EtOAc (100 mL), washed with saturated bicarbonate solution and brine, dried over Na2SO4, and concentrated. The crude material was chromatographed on silica gel eluting with 4% MeOH/CH2Cl2 to give 168 mg (92%) of the desired product as a sticky solid. MS: 389.3 (M+1 for C23H30N2O1F2); sticky solid; TLC (SiO2), Rf 0.44 (6% MeOH/CH2Cl2); HPLC (7:3 CH3CN/H2O with 0.1% TFA, C-18 column) 100%, RT=2.067 min.

reactant | N-[4,4-Bis-(4-fluoro-phenyl)-butyl]-2-methylamino-acetamide | 0.47 mmol, 157 mg | FC1=CC=C(C=C1)C(CCCNC(CNC)=O)C1=CC=C(C=C1)F | C19H22F2N2O
reactant | isobutyraldehyde | 0.47 mmol, 43 mL | C(C(C)C)=O | C4H8O
reactant | NaBH(OAc)3 | 0.71 mmol, 150 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-[4,4-Bis-(4-fluoro-phenyl)-butyl]-2-(isobutyl-methyl-amino)-acetamide | 168 mg, 92% | FC1=CC=C(C=C1)C(CCCNC(CN(C)CC(C)C)=O)C1=CC=C(C=C1)F | C23H30F2N2O
